US07977344B2
6-Amino-2-[(2-cyclopropylethyl)oxy]-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-7,9-dihydro-8H-purin-8-one
To a solution of 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-9H-purin-6-amine (84.7 mg, 0.234 mmol) in methanol (7.9 ml) at room temperature was added 4.0 M HCl in 1,4-dioxane (1.46 ml) to give a pale straw coloured solution. The reaction mixture was stirred at ambient temperature overnight (20 hours) and then evaporated in vacuo to give a colourless oil/gum. This material was re-dissolved in methanol and passed down a 5 g aminopropyl SPE cartridge (pre-conditioned in methanol), washed through with methanol and evaporated to give the title compound as a white solid (58.5 mg).

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-9H-purin-6-amine | 0.234 mmol, 84.7 mg | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CCC1OCCCC1)OC)N | C18H27N5O3
reactant | HCl | 4.0 M | Cl | ClH
solvent | methanol | 7.9 ml | CO | CH4O
solvent | 1,4-dioxane | 1.46 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-[(2-cyclopropylethyl)oxy]-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-7,9-dihydro-8H-purin-8-one | 58.5 mg | NC1=C2NC(N(C2=NC(=N1)OCCC1CC1)CCC1OCCCC1)=O | C17H25N5O3
